US04588749
1-(4-Ethylphenyl)-2-nitroprop-1-ene (prepared in the manner described in Preparation 7), (13.6 g) in tetrahydrofuran was added to aluminium amalgam (prepared from aluminium foil (10.7 g) and mercuric chloride (7.3 g) in tetrahydrofuran and the reaction temperature kept to 35°. The reaction mixture was left for 1h at room temperature, filtered, the solvent dried (MgSO4) and evaporated to give 4-ethylphenylacetone oxime (10.2 g) as a brown oil. This was dissolved in methanol and heated under reflux with a solution of sodium metabisulphite (44 g) in water for 6h. Concentrated hydrochloric acid was added to the cooled solution and left at room temperature for 2h. Extraction with chloroform and distillisation gave 4-ethylphenyl acetone, 6.02 g, bp 45/1 mm.

reactant | 1-(4-Ethylphenyl)-2-nitroprop-1-ene | C(C)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C11H13NO2
reactant | aluminium | [Al] | Al
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-ethylphenylacetone oxime | 10.2 g | C(C)C1=CC=C(C=C1)CC(C)=NO | C11H15NO
